US04738710
A solution of ethyl 2-{4-[N-(7-chloroquinolin-3-yl)amino]phenoxy}propionate (370 mg) and potassium hydroxide (200 mg) in methanol (10 ml) was warmed and stirred for 24 hours. The solution was poured into dilute hydrochloric acid (50 ml of 0.5M) and extracted with ethyl acetate (2×50 ml). The organic layer was dried over magnesium sulphate, filtered and evaporated to give 2-{4-[N-(7-chloroquinolin-3-yl)amino]phenoxy}propionic acid (200 mg) as a brown solid, mp 150° C.

reactant | ethyl 2-{4-[N-(7-chloroquinolin-3-yl)amino]phenoxy}propionate | 370 mg | ClC1=CC=C2C=C(C=NC2=C1)NC1=CC=C(OC(C(=O)OCC)C)C=C1 | C20H19ClN2O3
reactant | potassium hydroxide | 200 mg | [OH-].[K+]
reactant | hydrochloric acid | 0.5M, 50 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 2-{4-[N-(7-chloroquinolin-3-yl)amino]phenoxy}propionic acid | 200 mg | ClC1=CC=C2C=C(C=NC2=C1)NC1=CC=C(OC(C(=O)O)C)C=C1 | C18H15ClN2O3
